US05405550
1.28 ml (0.5 e.g.) of iodobenzene were added to a solution of propellane (10 mmol) generated via Procedure B. The solution was transferred into a borosilicate tube and irradiated 1 hr, after which GC analysis of the solution showed three new major peaks. The reaction mixture was reduced in volume, high vacuum applied (40° C./0.2 mm Hg) to remove starting material and 1-iodobicyclo[1.1.1]pentane. After these products were removed, 1-iodo-3-phenylbicyclo[1.1.1]pentane sublimed out of the mixture (40°-50° C./0.2 mm Hg): 1H NMR 2.06 (s, 6H); EIMS, m/z (relative intensity) 77(24), 127(25), 128(100), 143(91). Resublimation produced an analytical sample having mp. 64°-65° C. Recrystallization from penfane at 0° C. gave a gummy solid. The liquid was diluted with pentane and recrystallization at -78° C., giving 1-phenylbicyclo[1.1.1]pentane: The solid, a mixture of 1-phenyl]2]staffane and 3-iodo-3'-phenyl[2]staffane by GCMS, was recrystallized from benzene.

reactant | iodobenzene | 1.28 ml | IC1=CC=CC=C1 | C6H5I
reactant | pentane | CCCCC | C5H12
product | 1-phenylbicyclo[1.1.1]pentane | C1(=CC=CC=C1)C12CC(C1)C2 | C11H12
